US05380731
Scheme C, Step b: 1-[(1-Carbomethoxy methoxy ethyl)-1H-benzimidazol-2-yl][1-(4-piperidinyl)]methanone
Mix 1-[(1-carbomethoxy methoxy ethyl)-1H-benzimidazol-2-yl][1-(t-butyloxycarbonyl)-4-piperidinyl]methanone (11.9 g, 26.67 mmol) and trifluoroacetic acid (75 mL). Stir at room temperature until the reaction is complete. Pour onto water and carefully neutralize with solid sodium hydrogen carbonate. Extract into ethyl acetate (2×), wash with brine and dry (MgSO4). Evaporate the solvent in vacuo and purify by chromatography to give the title compound.

reactant | 1-[(1-carbomethoxy methoxy ethyl)-1H-benzimidazol-2-yl][1-(t-butyloxycarbonyl)-4-piperidinyl]methanone | 26.67 mmol, 11.9 g | C(=O)(OC)COC(C)N1C(=NC2=C1C=CC=C2)C(=O)C2CCN(CC2)C(=O)OC(C)(C)C | C23H31N3O6
reactant | trifluoroacetic acid | 75 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 1-[(1-Carbomethoxy methoxy ethyl)-1H-benzimidazol-2-yl][1-(4-piperidinyl)]methanone | C(=O)(OC)COC(C)N1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | C18H23N3O4
